* rf-term-150w - BENCH 4: the limit a shunt trimmer CANNOT fix (Reff = R + X^2/R)
*
* SOURCE TOPOLOGY / MODEL PROVENANCE / METHOD: identical to s11_band.cir -
* see that file's header. P2 feasibility (no kicad/*.net exists yet).
*
* DESIGN INTENT / what this bench proves. A shunt trimmer is a pure SUSCEPTANCE.
* It can null the imaginary part of Yin and nothing else, so after tuning
*     Yin = R/(R^2+X^2) + j0   ->   Zin = (R^2+X^2)/R = R + X^2/R = Reff, REAL
* and the reflection that remains, (Reff-z0)/(Reff+z0), is untouchable by any
* setting of C. Series reactance therefore does not merely go uncorrected - it
* is TRANSFORMED into a resistance error, and past some X no trimmer can hold
* 26 dB. decisions.md records that threshold as "X > 12.1 ohm (77 nH)" at the
* +5% resistance corner; this bench confirms or corrects it, at R = 50.0 and
* R = 52.5 ohm.
*
* DELIBERATE DIFFERENCE FROM BENCHES 1-3: the trimmer here is IDEAL - the
* setting is the exact susceptance null with NO clamp to the 1-35 pF range
* (block A needs 33.7-38.4 pF, and everything above X = 15.65 ohm is already
* past a real 35 pF top stop - see tuning_authority.cir xnull_hi_ohm). That is
* the point: removing the authority limit leaves Reff as the ONLY mechanism, so
* the numbers below are a property of the topology, not of any candidate part. Real-part authority is what
* is missing; a series trimmer or a matching network would be needed to correct
* it, and the design instead buys it with select-on-test (+/-2% -> R <= 51.0).
*
* The two zA/zB probes are the same networks driven by a 1 A AC current source
* instead, so v(z*) IS Zin in ohms: they show Im{Zin} ~ 0 (the tuner really is
* nulled) while Re{Zin} = 55.276 ohm (the 26 dB reflection is entirely real).

.param z0=50
.param fc=25e6
.param w0={2*3.141592653589793*fc}
.param cpad=1.3e-12
.param ra=50.0
.param rb=52.5

.func copt(rr,ll) {ll/(rr*rr+(w0*ll)*(w0*ll))}

* closed-form 26 dB threshold: |G| = 10^(-26/20), Reff_cap = z0(1+|G|)/(1-|G|),
* and X_cap = sqrt(R*(Reff_cap - R)) from Reff = R + X^2/R
.param g26=0.05011872336272722
.param reff26={z0*(1+g26)/(1-g26)}
.param xcapa={sqrt(ra*(reff26-ra))}
.param xcapb={sqrt(rb*(reff26-rb))}
.param lcapa={xcapa/w0}
.param lcapb={xcapb/w0}

.subckt oneport p lval=6.9n rval=50 cval=1.5p cpv=1.3p
Ll p m {lval}
Rt m 0 {rval}
Ct p 0 {cval}
Cp p 0 {cpv}
.ends

Vsrc src 0 AC 2
Vref ref 0 AC 1

* ============ block A: R = 50.0 ohm, X swept through the cap =============
.param la1={15.0/w0}
.param la2={15.5/w0}
.param la3={16.0/w0}
.param la5={16.35/w0}
.param la6={16.5/w0}
.param la7={17.0/w0}
.param la8={17.5/w0}
Rsa1 src da1 {z0}
Xa1 da1 oneport lval={la1} rval={ra} cval={copt(ra,la1)-cpad} cpv={cpad}
Ea1 ga1 0 da1 ref 1
Rsa2 src da2 {z0}
Xa2 da2 oneport lval={la2} rval={ra} cval={copt(ra,la2)-cpad} cpv={cpad}
Ea2 ga2 0 da2 ref 1
Rsa3 src da3 {z0}
Xa3 da3 oneport lval={la3} rval={ra} cval={copt(ra,la3)-cpad} cpv={cpad}
Ea3 ga3 0 da3 ref 1
Rsa4 src da4 {z0}
Xa4 da4 oneport lval={lcapa} rval={ra} cval={copt(ra,lcapa)-cpad} cpv={cpad}
Ea4 ga4 0 da4 ref 1
Rsa5 src da5 {z0}
Xa5 da5 oneport lval={la5} rval={ra} cval={copt(ra,la5)-cpad} cpv={cpad}
Ea5 ga5 0 da5 ref 1
Rsa6 src da6 {z0}
Xa6 da6 oneport lval={la6} rval={ra} cval={copt(ra,la6)-cpad} cpv={cpad}
Ea6 ga6 0 da6 ref 1
Rsa7 src da7 {z0}
Xa7 da7 oneport lval={la7} rval={ra} cval={copt(ra,la7)-cpad} cpv={cpad}
Ea7 ga7 0 da7 ref 1
Rsa8 src da8 {z0}
Xa8 da8 oneport lval={la8} rval={ra} cval={copt(ra,la8)-cpad} cpv={cpad}
Ea8 ga8 0 da8 ref 1

* ============ block B: R = 52.5 ohm (catalogue +5%) ======================
.param lb1={11.0/w0}
.param lb2={11.5/w0}
.param lb3={12.0/w0}
.param lb5={12.1/w0}
.param lb6={12.2/w0}
.param lb7={12.5/w0}
.param lb8={13.0/w0}
Rsb1 src db1 {z0}
Xb1 db1 oneport lval={lb1} rval={rb} cval={copt(rb,lb1)-cpad} cpv={cpad}
Eb1 gb1 0 db1 ref 1
Rsb2 src db2 {z0}
Xb2 db2 oneport lval={lb2} rval={rb} cval={copt(rb,lb2)-cpad} cpv={cpad}
Eb2 gb2 0 db2 ref 1
Rsb3 src db3 {z0}
Xb3 db3 oneport lval={lb3} rval={rb} cval={copt(rb,lb3)-cpad} cpv={cpad}
Eb3 gb3 0 db3 ref 1
Rsb4 src db4 {z0}
Xb4 db4 oneport lval={lcapb} rval={rb} cval={copt(rb,lcapb)-cpad} cpv={cpad}
Eb4 gb4 0 db4 ref 1
Rsb5 src db5 {z0}
Xb5 db5 oneport lval={lb5} rval={rb} cval={copt(rb,lb5)-cpad} cpv={cpad}
Eb5 gb5 0 db5 ref 1
Rsb6 src db6 {z0}
Xb6 db6 oneport lval={lb6} rval={rb} cval={copt(rb,lb6)-cpad} cpv={cpad}
Eb6 gb6 0 db6 ref 1
Rsb7 src db7 {z0}
Xb7 db7 oneport lval={lb7} rval={rb} cval={copt(rb,lb7)-cpad} cpv={cpad}
Eb7 gb7 0 db7 ref 1
Rsb8 src db8 {z0}
Xb8 db8 oneport lval={lb8} rval={rb} cval={copt(rb,lb8)-cpad} cpv={cpad}
Eb8 gb8 0 db8 ref 1

* the X = 0 reference at R = 52.5: no reactance at all, so no shunt C either
* (an ideal null would need C = -1.3 pF against the pad parasitic). This is
* the BEST any tuner can ever do at the +5% corner.
Rsb0 src db0 {z0}
Xb0 db0 oneport lval=1f rval={rb} cval=1f cpv=1f
Eb0 gb0 0 db0 ref 1

* ============ Zin probes at the two thresholds (1 A AC -> v = Zin) =======
Iza 0 za AC 1
Xza za oneport lval={lcapa} rval={ra} cval={copt(ra,lcapa)-cpad} cpv={cpad}
Izb 0 zb AC 1
Xzb zb oneport lval={lcapb} rval={rb} cval={copt(rb,lcapb)-cpad} cpv={cpad}

.ac lin 201 20e6 30e6

* --- block A: R = 50.0 --------------------------------------------------
.meas ac s_a_x150  find vdb(ga1) at=25e6
.meas ac rl_a_x150  param='-s_a_x150'
.meas ac s_a_x155  find vdb(ga2) at=25e6
.meas ac rl_a_x155  param='-s_a_x155'
.meas ac s_a_x160  find vdb(ga3) at=25e6
.meas ac rl_a_x160  param='-s_a_x160'
.meas ac s_a_xcap  find vdb(ga4) at=25e6
.meas ac rl_a_xcap  param='-s_a_xcap'
.meas ac s_a_x1635 find vdb(ga5) at=25e6
.meas ac rl_a_x1635 param='-s_a_x1635'
.meas ac s_a_x165  find vdb(ga6) at=25e6
.meas ac rl_a_x165  param='-s_a_x165'
.meas ac s_a_x170  find vdb(ga7) at=25e6
.meas ac rl_a_x170  param='-s_a_x170'
.meas ac s_a_x175  find vdb(ga8) at=25e6
.meas ac rl_a_x175  param='-s_a_x175'

* --- block B: R = 52.5 --------------------------------------------------
.meas ac s_b_x0   find vdb(gb0) at=25e6
.meas ac rl_b_x0   param='-s_b_x0'
.meas ac s_b_x110 find vdb(gb1) at=25e6
.meas ac rl_b_x110 param='-s_b_x110'
.meas ac s_b_x115 find vdb(gb2) at=25e6
.meas ac rl_b_x115 param='-s_b_x115'
.meas ac s_b_x120 find vdb(gb3) at=25e6
.meas ac rl_b_x120 param='-s_b_x120'
.meas ac s_b_xcap find vdb(gb4) at=25e6
.meas ac rl_b_xcap param='-s_b_xcap'
.meas ac s_b_x121 find vdb(gb5) at=25e6
.meas ac rl_b_x121 param='-s_b_x121'
.meas ac s_b_x122 find vdb(gb6) at=25e6
.meas ac rl_b_x122 param='-s_b_x122'
.meas ac s_b_x125 find vdb(gb7) at=25e6
.meas ac rl_b_x125 param='-s_b_x125'
.meas ac s_b_x130 find vdb(gb8) at=25e6
.meas ac rl_b_x130 param='-s_b_x130'

* --- Zin at the thresholds: real 55.276 ohm, imaginary ~ 0 --------------
.meas ac reff_a find vr(za) at=25e6
.meas ac xin_a  find vi(za) at=25e6
.meas ac reff_b find vr(zb) at=25e6
.meas ac xin_b  find vi(zb) at=25e6

* --- closed-form thresholds, and the error against decisions.md ---------
.meas ac reff_cap_ohm param='reff26'
.meas ac xcap_r50_ohm  param='xcapa'
.meas ac lcap_r50_nh   param='lcapa*1e9'
.meas ac xcap_r525_ohm param='xcapb'
.meas ac lcap_r525_nh  param='lcapb*1e9'
.meas ac xcap_r525_err param='xcapb-12.1'
.meas ac lcap_r525_err param='lcapb*1e9-77'

.end
